US04749786
A 70 mL stainless steel high pressure reactor having a Pyrex glass liner and a magnetic stir bar was charged with 5 mL of tetrahydrofuran, 0.5 mol of n-pentadecane internal standard, 0.5 mmol of tert-butyl alcohol, 40 mg of (PPh3)2PdCl2, and 55.5 mg of N-acetyl-2-pyrroline. The reactor was pressurized to 1000 psi with Co at room temperature, and the reaction mixture was stirred at 100° C. for 21 hours. Thereafter, the reactor was cooled to room temperature and vented to atmospheric pressure. The product mixture was analyzed by gas chromatography and mass spectrometry, and the analysis indicated 98.6% conversion of N-acetyl-2-pyrroline and 1.0% yield of N-acetylproline tert-butyl ester.

reactant | n-pentadecane | 0.5 mol | CCCCCCCCCCCCCCC | C15H32
reactant | tert-butyl alcohol | 0.5 mmol | C(C)(C)(C)O | C4H10O
reactant | N-acetyl-2-pyrroline | 55.5 mg | C(C)(=O)N1C=CCC1 | C6H9NO
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | (PPh3)2PdCl2 | 40 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-acetylproline tert-butyl ester | 1.0% yield | C(C)(C)(C)OC([C@H]1N(CCC1)C(C)=O)=O | C11H19NO3
